US05919941
(+)-(1S,2R,4R)-4-(2-Amino-1,6-dihydro-6-thioxo-9H-purin-9-yl)-2-(hydroxymethyl)-1-cyclopentanol
(+)-(1S,2R,4R)-4-(2-Amino-6-chloro-9H-purin-9-yl)-2-(hydroxymethyl)cyclopentanol, (1.70 g, 6.00 mmol) and thiourea (456 mg, 6.00 mmol) were refluxed in water (15 mL) for 1.0 hour. The cooled solution was adjusted to pH5 with saturated aqueous sodium bicarbonate. The resulting precipitate was filtered, washed with water and dried to give title compound as white powder (1.20 g, 71%); m.p. 290-291° dec; mass spectrum (Cl, CH4) 282 (M+1); 1H-NMR (DMSO-d6)δ: 11.90 (br s, 1, NH), 8.03 (s, 1, H-8), 6.78 (br s, 2, NH2), 4.95-4.70 (m, overlapping d at 4.78, J=27 Hz, total 2, CHN and OH), 4.7-4.6 (m, 1, CH2OH), 4.1-4.0 (m, 1, CHOH), 3.6-3.4 (m, 2, CH2O), 2.4-2.2 (m, 1, CH), 2.2-1.9 (m, 3, methylene), 1.7-1.5 (m, 1, 1/2CH2); [α]20589 +6.43°, [α]20578 +6.71°, [α]20546 +7.43°, [α]20436 +8.43°, [α]20 365 +8.43° (c=0.70, 0.1N NaOH).

reactant | (+)-(1S,2R,4R)-4-(2-Amino-6-chloro-9H-purin-9-yl)-2-(hydroxymethyl)cyclopentanol | 6.00 mmol, 1.70 g | NC1=NC(=C2N=CN(C2=N1)[C@@H]1C[C@@H]([C@H](C1)O)CO)Cl | C11H14ClN5O2
reactant | thiourea | 6.00 mmol, 456 mg | NC(=S)N | CH4N2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 15 mL | O | H2O
product | (+)-(1S,2R,4R)-4-(2-Amino-1,6-dihydro-6-thioxo-9H-purin-9-yl)-2-(hydroxymethyl)-1-cyclopentanol | 1.20 g, 71% | NC=1NC(C=2N=CN(C2N1)[C@@H]1C[C@@H]([C@H](C1)O)CO)=S | C11H15N5O2S
